US04663409
N-Methacryloylisonipecotic Acid
The procedure of Example A is used in this example. Isonipecotic acid 43 g, (0.33 mol), 39 g (0.39 mol) of methacryloyl chloride, 29.6 g (0.79 mol) of sodium hydroxide and a trace amount of p-methoxyphenol are charged to the reaction vessel. The reaction mixture is run at 0°-5° C. for a period of three hours and acidified with 2N HCl to pH 3.5. White precipitate is formed and extracted with ethyl acetate. The combined organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate, and evaporated to yield crystalline material which is recrystallized from ethyl acetate, to produce 52.9 g (81%) of the product. Found: melting point 90°-93° C. NMR (CDCl3), 4.9 gamma (s, 1H, =CH2), 4.7 gamma (s, 1H, =CH2), 3.8 gamma (br s, 2H, NCH2), 1.7.

reactant | Isonipecotic acid | 0.33 mol, 43 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | methacryloyl chloride | 0.39 mol, 39 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 0.79 mol, 29.6 g | [OH-].[Na+]
reactant | p-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | HCl | 2N | Cl | ClH
product | N-Methacryloylisonipecotic Acid | 52.9 g, 81% | C(C(=C)C)(=O)N1CCC(C(=O)O)CC1 | C10H15NO3
